US05990142
22A 4-(4-Fluorophenyl)-1-butanol
A suspension of aluminium trichloride (10.2 g, 76.5 mmol) in dichloromethane (250 ml) at 0° C. was added with the borane-tert-butylamine complex (13.2 g, 153 mmol) and the mixture was left under stirring at 0° C. for 15 minutes. After that the mixture was added with 3-(4-fluorobenzoyl)propionic acid (5 g, 25.5 mmol) stirring at room temperature for 20 h, then added slowly with 0.2M HCl (75 ml) and extracted with ethyl acetate (3×100 ml). The combined organic phases were washed with 0.2M HCl and with a NaCl saturated solution, dried and the solvents were removed under reduced pressure. The resulting residue was purified by chromatography through a silica gel column, eluting with hexane:ethyl acetate, 8:2, thereby recovering 2.70 g of the title product as a colourless oil (63% yield).

reactant | aluminium trichloride | 76.5 mmol, 10.2 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 3-(4-fluorobenzoyl)propionic acid | 25.5 mmol, 5 g | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
reactant | HCl | 0.2M, 75 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-(4-Fluorophenyl)-1-butanol | 2.70 g, 63% yield | FC1=CC=C(C=C1)CCCCO | C10H13FO
